US07547710B2
(6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylamine
To a solution of 2-[(6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1H-isoindole-1,3(2H)-dione (1.7 g, 3.4 mmol) in ethanol (150 ml), being heated under reflux, was added hydrazine monohydrate (5 ml, 103 mmol), and the mixture was heated under reflux for 2 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and saturated aqueous sodium hydrogen carbonate (250 ml). The organic layer was washed with saturated aqueous sodium hydrogen carbonate (100 ml) and then saturated brine (100 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography, and crystallized from n-hexane-diisopropyl ether to give the title compound (0.90 g, yield 72%) as colorless crystals.

reactant | 2-[(6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methyl]-1H-isoindole-1,3(2H)-dione | 3.4 mmol, 1.7 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C28H23BrN2O2
reactant | hydrazine monohydrate | 103 mmol, 5 ml | O.NN
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylamine | 0.90 g, yield 72% | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN)C1=CC=CC=C1 | C20H21BrN2
